US06737548B2
In a 100 mL flask equipped with a reflux condenser, an inlet tube for hydrogen chloride gas and a thermometer were placed 2.1 g of 5-nitro-1-tetralone oxime and 40 mL of acetic acid. While bubbling hydrogen chloride gas, the mixture was heated at 100° C. for 4 hours with stirring by a stirring bar. After allowing the mixture to be cooled to room temperature, a precipitated 5-nitro-1-aminonaphthalene hydrochloride was collected by filtration and rinsed with a small amount of acetic acid. After drying in vacuo, 5-nitro-1-aminonaphthalene hydrochloride (1.0 g) was obtained. No naphthalene derivatives isomerized in the amino or nitro group were detected.

reactant | hydrogen chloride | Cl | ClH
reactant | 5-nitro-1-tetralone oxime | 2.1 g | [N+](=O)([O-])C1=C2CCCC(C2=CC=C1)=NO | C10H10N2O3
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 5-nitro-1-aminonaphthalene hydrochloride | 1.0 g | Cl.[N+](=O)([O-])C1=C2C=CC=C(C2=CC=C1)N | InChI=1S/C10H8N2O2.ClH/c11-9-5-1-4-8-7(9)3-2-6-10(8)12(13)14;/h1-6H,11H2;1H
